US08735412B2
(RS)-S-Methyl-S-(4-nitrophenyl)-N-(trifluoroacetyl)sulfoximide
1.00 ml (7.08 mmol) of trifluoroacetic anhydride was added dropwise, with cooling with ice, to a solution of 1000 mg (4.99 mmol) (RS)-S-(4-nitrophenyl)-S-methylsulfoximide, 55 mg (0.45 mmol) DMAP and 0.76 ml (5.49 mmol) triethylamine in 32 ml DCM. The mixture was stirred for a further 2 hours on the ice bath. It was diluted with DCM and washed with semiconcentrated sodium chloride solution. The organic phase was dried (Na2SO4), filtered and concentrated by evaporation. The residue obtained was purified chromatographically (hexane/ethyl acetate 60:40). The product obtained was finally stirred with diisopropyl ether. The solid was filtered off with suction and dried. 1444 mg (4.87 mmol; yield: 98%) of the product was obtained.

reactant | trifluoroacetic anhydride | 7.08 mmol, 1.00 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | (RS)-S-(4-nitrophenyl)-S-methylsulfoximide | 4.99 mmol, 1000 mg | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=N)C | C7H8N2O3S
reactant | triethylamine | 5.49 mmol, 0.76 ml | C(C)N(CC)CC | C6H15N
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
catalyst | DMAP | 0.45 mmol, 55 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 32 ml | C(Cl)Cl | CH2Cl2
product | (RS)-S-Methyl-S-(4-nitrophenyl)-N-(trifluoroacetyl)sulfoximide | yield: 98% | CS(=O)(=NC(C(F)(F)F)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C9H7F3N2O4S
